US05246958
1.40 g (1.25 mmole) of potassium tert-butoxide was added to a 17 ml ethylene glycol dimethyl ether solution containing 0.73 g (5 mmole) of 4-acetylbenzonitrile, 0.5 ml of ethanol and 1.27 g (6.5 mmole) of p-toluenesulfonylmethylisocyanide under ice-cooling; then the mixture was stirred at room temperature for 0.5 hour and then at 40° C. for an additional hour. After the reaction mixture was cooled by allowing to stand at room temperature, it was filtered under reduced pressure and the filtrate was purified by silica gel chromatography to obtain 0.55 g (yield: 70.4 %) of 2-(4-cyanophenyl)ethylcyanide.

reactant | potassium tert-butoxide | 1.25 mmole, 1.40 g | CC(C)([O-])C.[K+]
reactant | ethylene glycol dimethyl ether | 17 ml | COCCOC | C4H10O2
reactant | 4-acetylbenzonitrile | 5 mmole, 0.73 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | p-toluenesulfonylmethylisocyanide | 6.5 mmole, 1.27 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 2-(4-cyanophenyl)ethylcyanide | 0.55 g, yield: 70.4 % | C(#N)C1=CC=C(C=C1)CCC#N | C10H8N2
